US08703953B2
To a stirred solution of tert-butyl((2S)-1-((9-bromo-5-(trifluoromethyl)-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-yl)carbamate (50 mg, 0.092 mmol) in dichloromethane (10 mL) at room temperature was added TFA (0.035 mL, 0.458 mmol) and stirred overnight. The solvent was removed under reduced pressure to afford a residue which was purified by preparative HPLC using 0.1% TFA in MeOH. The purification afforded (2S)-1-((9-bromo-5-(trifluoromethyl)-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-amine (15 mg, 0.033 mmol, 36% yield) as a yellow solid. 1H NMR (400 MHz, MeOD) δ 8.64 (m, 1 H), 8.54 (m, 1 H), 8.23 (m, 1 H), 7.88 (s, 1 H), 6.91 (s, 1 H), 6.10 (m, 1 H), 4.3 (m, 1 H), 4.12 (m, 1 H), 3.52 (m, 1 H), 1.85 (m, 1 H), 1.72-1.69 (m, 1 H), 1.61-1.56 (m, 1 H), 1.05 (m, 6 H). LCMS (ESI) m/e 445.2 [(M+H)+, calcd for C19H21BrF3N2O2 445.1]; LC/MS retention time (Method C): tR=1.74 min; HPLC retention time (method A): tR=5.66 min, 5.75 min (diastereomeric mixture); HPLC retention time (method B): tR=6.27 min, 6.34 min (diastereomeric mixture).

reactant | tert-butyl((2S)-1-((9-bromo-5-(trifluoromethyl)-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-yl)carbamate | 0.092 mmol, 50 mg | C(C)(C)(C)OC(N[C@H](COC=1C(=CC2=C(C1)OC(C1=CN=CC=C12)C(F)(F)F)Br)CC(C)C)=O | C24H28BrF3N2O4
reactant | TFA | 0.458 mmol, 0.035 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (2S)-1-((9-bromo-5-(trifluoromethyl)-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-amine | 0.033 mmol, 15 mg, 36% yield | BrC1=CC2=C(C=C1OC[C@H](CC(C)C)N)OC(C1=CN=CC=C12)C(F)(F)F | C19H20BrF3N2O2
